US09062076B2
A mixture of 2-(6,7-dimethoxy-3,4-dihydronaphthalene-2-carboxamido)benzoic acid (350 mg, 1 mmol) and 10% Pd/C (35 mg) in MeOH (50 mL) and THF (50 mL) was stirred at room temperature under H2 overnight. The mixture was filtered and the filtrate was concentrated under reduced pressure to afford 2-(6,7-dimethoxy-1,2,3,4-tetrahydronaphthalene-3-carboxamido)benzoic acid (250 mg, 71%). 1H-NMR (400 MHz, DMSO-d6) δ 1.70-1.85 (m, 1H), 2.10-2.21 (m, 1H), 2.64-2.82 (m, 3H), 2.82-3.00 (m, 2H), 3.71 (s, 6H), 6.66 (s, 1H), 6.68 (s, 1H), 7.16 (app t, J=7.6 Hz, 1H), 7.60 (app t, J=8.0 Hz, 1H), 8.00 (d, J=7.2 Hz, 1H), 8.53 (d, J=8.4 Hz, 1H), 11.32 (s, 1H); LC-MS (ES-API); rt 8.96 min; m/z calculated for C20H21NO5 [M+H]+ 356.1, found 356.1.

reactant | 2-(6,7-dimethoxy-3,4-dihydronaphthalene-2-carboxamido)benzoic acid | 1 mmol, 350 mg | COC=1C=C2CCC(=CC2=CC1OC)C(=O)NC1=C(C(=O)O)C=CC=C1 | C20H19NO5
solvent | MeOH | 50 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 35 mg | [Pd] | Pd
product | 2-(6,7-dimethoxy-1,2,3,4-tetrahydronaphthalene-3-carboxamido)benzoic acid | 250 mg, 71% | COC=1C=C2CC(CCC2=CC1OC)C(=O)NC1=C(C(=O)O)C=CC=C1 | C20H21NO5
